US04853469
Preparation of diethyl (6,7-difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazin-1 -ylidene)malonate [compound (XI) in which R4 is ethyl]
6,7-Difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazine-1-thione (0.4 g) prepared in Reference Example 18 and ethyl iodide (1.9 g) were added to acetonitrile (10 ml) and the mixture was stirred at 75° to 78° C. for 5 hours. Then diethyl malonate (0.5 g) and triethylamine (0.62 g) were added and the mixture was refluxed for 24 hours. After the reaction mixture was evaporated to dryness under reduced pressure, water was added to the residue and the mixture was extracted with chloroform. The extract was washed with a NaCl solution and dried over anhydrous sodium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by silica-gel column chromatography (Silica gel 60, 230-400 meshes, made by Merck Co., 130 g, eluent; chloroform) under medium pressure and recrystallized from a mixed solvent of hexane-ethyl acetate to give the title compound (0.38 g) as pale yellow crystals. The compound had physical properties identical to those of diethyl (6,7-difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazin-1-ylidene)malonate prepared in Reference Example 6.

reactant | 6,7-Difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazine-1-thione | 0.4 g | FC1=C(C=CC=2N3C(COC21)=CSC3=S)F | C10H5F2NOS2
reactant | ethyl iodide | 1.9 g | C(C)I | C2H5I
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | diethyl malonate | 0.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | triethylamine | 0.62 g | C(C)N(CC)CC | C6H15N
product | diethyl (6,7-difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazin-1 -ylidene)malonate | 0.38 g | FC1=C(C=CC=2N3C(COC21)=CSC3=C(C(=O)OCC)C(=O)OCC)F | C17H15F2NO5S
